data/oMe_Silver.jsonl
{"reaction_id": "NR-310_1-C(C)(C)C_2-F_3-CC(C)C_4-C1CCOC1_5-C_6-OS(=O)(=O)C(F)(F)F_7-P(C1CCCCC1)(C1CCCCC1)C1CCCCC1","level": "medium","name": "Tsuji-Trost Reaction","reactants_smiles": ["C(C)(C)CC(F)=C(CC(C)C)C(C1CCOC1)(C)(OS(=O)(=O)C(F)(F)F)","N#CCC#N","[Pd]"],"products_smiles": ["C(C)(C)CC(F)=C(CC(C)C)C(C1CCOC1)(C)C(C#N)C#N"],"conditions": "Ligand, Base (e.g. NaH), Pd","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "C(C(C)(C)C)(F)=C(CC(C)C)C([Pd](OS(=O)(=O)C(F)(F)F)(P(C1CCCCC1)(C1CCCCC1)C1CCCCC1)(P(C1CCCCC1)(C1CCCCC1)C1CCCCC1))(C1CCOC1)(C)","step_weight": 0,"rationale": "Pd(0) coordinates to the allylic system and undergoes oxidative addition due to the good leaving group ability and stabilization of the resulting π-allyl–Pd(II) complex by conjugation."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[CH-](C#N)C#N","step_weight": 0,"rationale": "The base deprotonates malononitrile, as the α-proton is highly acidic due to strong electron-withdrawing cyano groups stabilizing the resulting carbanion."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "N#CC(C#N)C(C1CCOC1)(C)/C1(CC(C)C)[Pd](P(C1CCCCC1)(C1CCCCC1)C1CCCCC1)(P(C1CCCCC1)(C1CCCCC1)C1CCCCC1)C1(F)(C(C)(C)C)","step_weight": 0,"rationale": "The nucleophilic carbanion attacks the electrophilic π-allyl–Pd complex at the less hindered terminus, favored by orbital overlap and reduced steric hindrance."},{"step": 4,"type": "dissociation","subtype": "dissociation","intermediate_smiles": "C(C)(C)CC(F)=C(CC(C)C)C(C1CCOC1)(C)C(C#N)C#N","step_weight": 0,"rationale": "Product dissociates via reductive elimination, regenerating Pd(0) due to the thermodynamic stability of the C–C bond and the catalyst turnover requirement."}],"description": "In the Tsuji–Trost reaction, Pd(0) first undergoes oxidative addition to the allylic substrate, forming a π-allyl–Pd complex. The base deprotonates malononitrile to generate a stabilized nucleophile, which attacks the π-allyl complex. Reductive elimination releases the substituted product and regenerates Pd(0)."}
{"reaction_id": "NR-053_1-CC_2-C(C)(C)C_3-c1ccccc1_4-CCCC(C)C","name": "Dakin Oxidation","level": "easy","reactants_smiles": ["O=Cc1c(CC)cc(C(C)(C)C)c(c1ccccc1)c1(CCCC(C)C)","OO"],"products_smiles": ["Oc1c(CC)cc(C(C)(C)C)c(c1ccccc1)c1(CCCC(C)C)"],"conditions": "Aqueous Base (e.g. [OH-]), then Acid (e.g. HCl for workup)","mechnism_text_description": "The Dakin oxidation is the reaction between electron-rich aromatic aldehydes and hydrogen peroxide yielding phenols. It is a variant of the Baeyer-Villiger oxidation. The reaction was first described by Henry Drysdale Dakin in 1899.","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[O-][CH](OO)c1c(CC)cc(C(C)(C)C)c(c1ccccc1)c1(CCCC(C)C)","step_weight": 0,"rationale": "Hydroxide-activated hydrogen peroxide is a strong nucleophile, attacking the electrophilic aldehyde carbonyl due to polarization from the oxygen and resonance withdrawal by the aromatic ring substituents."},{"step": 2,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "O=COc1c(CC)cc(C(C)(C)C)c(c1ccccc1)c1(CCCC(C)C)","step_weight": 0,"rationale": "A 1,2-aryl shift occurs because the aromatic group stabilizes the developing positive charge via resonance, facilitating migration to the adjacent peroxide oxygen."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[O-][CH](O)Oc1c(CC)cc(C(C)(C)C)c(c1ccccc1)c1(CCCC(C)C)","step_weight": 0,"rationale": "Hydroxide attacks the ester-like intermediate since the carbonyl carbon is electrophilic and activated by the adjacent oxygen, promoting nucleophilic addition."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[O-]c1c(CC)cc(C(C)(C)C)c(c1ccccc1)c1(CCCC(C)C)","step_weight": 0,"rationale": "Elimination of the formate anion occurs as it is a good leaving group under basic conditions, driven by formation of the stable phenoxide anion."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "Oc1c(CC)cc(C(C)(C)C)c(c1ccccc1)c1(CCCC(C)C)","step_weight": 0,"rationale": "Acid workup protonates the phenoxide to yield the neutral phenol, favored by the stability of the aromatic hydroxyl product in acidic medium."}],"description": "Under basic conditions, hydrogen peroxide attacks the electron-deficient carbonyl of the aromatic aldehyde, followed by a rearrangement that shifts the aromatic ring to oxygen. Subsequent nucleophilic addition, elimination, and acid workup yield the phenol via Dakin oxidation."}
